US04962115
A mixture of 13.6 parts of 1H-imidazole, 16.8 parts of ethyl 4-fluorobenzoate, 0.1 parts of potassium iodide and 54 parts of N,-N-dimethylacetamide was stirred and refluxed for 20 hours. The reaction mixture was cooled to room temperature and poured onto a lot of water. The product was extracted a few times with benzene. The combined extracts were washed thoroughly with water, dried, filtered and evaporated. The residue was stirred in hexane. The product was filtered off and dried, yielding 7.2 parts (33.3%) of ethyl 4-(1H-imidazol-1-yl)benzoate; mp. 100.3° C. (intermediate 18).

reactant | 1H-imidazole | N1C=NC=C1 | C3H4N2
reactant | ethyl 4-fluorobenzoate | FC1=CC=C(C(=O)OCC)C=C1 | C9H9FO2
reactant | potassium iodide | [I-].[K+]
reactant | N,-N-dimethylacetamide | CN(C(C)=O)C | C4H9NO
solvent | water | O | H2O
product | ethyl 4-(1H-imidazol-1-yl)benzoate | 33.3% | N1(C=NC=C1)C1=CC=C(C(=O)OCC)C=C1 | C12H12N2O2
